US07592347B2
2-Chloro-5-(dimethylaminocarbonyl)pyridine (D36)
The title compound (D36) was prepared from dimethylamine and 6-chloronicotinic acid according to the procedure described for Description 35. MS electrospray (+ve ion) 185 (MH+).

reactant | dimethylamine | CNC | C2H7N
reactant | 6-chloronicotinic acid | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
product | 2-Chloro-5-(dimethylaminocarbonyl)pyridine | ClC1=NC=C(C=C1)C(=O)N(C)C | C8H9ClN2O
